US07300939B2
100 mg (4.0 mmol) of sodium were added to ethanol (20 ml). After reaction of the sodium was complete, 500 mg (2.0 mmol) of 1-(3-methanesulfonyl-[1,2,4]-thiadiazol-5-yl)piperazine were added and the mixture was subsequently stirred at 50° C. 2 h. The cooled reaction solution was poured into a satd aq. NaCI soln cooled to 0° C. This mixture was extracted with EA. The organic phase was dried over MgSO4, filtered and concentrated in vacuo. 310 mg (1.54 mmol, 77%) of 1-(3-methoxy-[1,2,4]-thiadiazol-5-yl)piperazine were obtained.

reactant | sodium | 4.0 mmol, 100 mg | [Na] | Na
reactant | 1-(3-methanesulfonyl-[1,2,4]-thiadiazol-5-yl)piperazine | 2.0 mmol, 500 mg | CS(=O)(=O)C1=NSC(=N1)N1CCNCC1 | C7H12N4O2S2
reactant | ethanol | 20 ml | C(C)O | C2H6O
product | 1-(3-methoxy-[1,2,4]-thiadiazol-5-yl)piperazine | 1.54 mmol, 310 mg, 77% | COC1=NSC(=N1)N1CCNCC1 | C7H12N4OS
